US06087380
c) 3-Amino-4-methylaminobenzenesulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide
1.5 g (4.4 mMol) of 4-methylamino-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide were dissolved in 100 ml methanol and catalytically hydrogenated at room temperature and under 5 bar hydrogen pressure (10% palladium on charcoal). Then the catalyst was filtered off and the filtrate was evaporated down. The resulting oily product was further reacted without any purification. Yield: 1.4 g (100% of theory), C14H24N4O2S (312.4) Rf value: 0.33 (silica gel; dichloromethane/ethanol=4:1)

reactant | 4-methylamino-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide | 4.4 mMol, 1.5 g | CN(S(=O)(=O)C1=CC(=C(C=C1)NC)[N+](=O)[O-])C1CCN(CC1)C | C14H22N4O4S
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-Amino-4-methylaminobenzenesulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide | CN(S(=O)(=O)C1=CC(=C(C=C1)NC)N)C1CCN(CC1)C | C14H24N4O2S
